US07943619B2
3-Bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine
As described for example 1, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (2.46 g, 13 mmol) was converted using 3,6-dibromopyridazine instead of 3,6-dichloropyridazine to the title compound (3.99 g, 89%) as a white solid. MS: m/e=348.0/346.1 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 13 mmol, 2.46 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 3,6-dibromopyridazine | BrC=1N=NC(=CC1)Br | C4H2Br2N2
product | 3-Bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 3.99 g, 89% | BrC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12BrN3O2
